US05552409
To a solution of p-chlorobenzoic hydrazide (11.2 g) in dioxane (100 ml) was added chloroacetyl chloride (6 ml). The resulting mixture was refluxed for three hours, cooled to room temperature and filtered. The resulting solid was washed with ethyl ether and dried to yield N'-chloroacetyl-4-chlorobenzoic hydrazide as white solid.

reactant | p-chlorobenzoic hydrazide | 11.2 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | chloroacetyl chloride | 6 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N'-chloroacetyl-4-chlorobenzoic hydrazide | ClCC(=O)NNC(C1=CC=C(C=C1)Cl)=O | C9H8Cl2N2O2
